US07858646B2
Synthesis of 1-(2-hydroxy-3-propyl-4-{3-[4-(2H-tetrazol-5-yl)-phenylamino]-benzyloxy}-phenyl)-ethanone
Using the general procedure for formation of tetrazole (Et3NHCl method) of Example 1 using 4-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-benzonitrile (380 mg, 0.949 mmol), sodium azide (308 mg, 4.74 mmol), and triethylamine hydrochloride (653 mg, 4.74 mmol) to yield the title product as a white solid (120 mg, 29%): 1H NMR (DMSO-d6) δ 0.785 (t, 3H), 1.44 (sextuplet, 2H), 2.52 (s, 3H), 2.55 (t, 2H), 5.20 (s, 2H), 6.68 (d, 1H), 6.97 (d, 1H), 7.04 (d, 1H), 7.15 (d, 2H), 7.24 (s, 1H), 7.29 (t, 1H), 7.76 (d, 1H), 7.82 (d, 2H), 8.69 (s, 1H), 12.80 (s, 1H); MS (esi negative) m/z (rel intensity) 442 (100).

reactant | 4-[3-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenylamino]-benzonitrile | 0.949 mmol, 380 mg | C(C)(=O)C1=C(C(=C(OCC=2C=C(C=CC2)NC2=CC=C(C#N)C=C2)C=C1)CCC)O | C25H24N2O3
reactant | sodium azide | 4.74 mmol, 308 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 4.74 mmol, 653 mg | Cl.C(C)N(CC)CC
product | 1-(2-hydroxy-3-propyl-4-{3-[4-(2H-tetrazol-5-yl)-phenylamino]-benzyloxy}-phenyl)-ethanone | 120 mg, 29% | OC1=C(C=CC(=C1CCC)OCC1=CC(=CC=C1)NC1=CC=C(C=C1)C=1N=NNN1)C(C)=O | C25H25N5O3
